US05412145
N-Boc-4-cyanophenylalanine-N-methylamide
A solution of N-Boc-4-cyanophenylalanine (1.92 g, 6.6 mmol) and pentafluorophenol (2.43 g, 13.2 mmol) in CH2Cl2 (30 ml) at 0° C. was treated with 4-methylmorpholine (0.74 g, 7.3 mmol). After stirring the reaction mixture for 3 hours, 8M methylamine in ethanol (15 ml, 19.8 mmol) was added and the reaction mixture left to stir at room temperature for 16 hours. The solvent was removed under pressure, the residue dissolved in CH2Cl2 (50 ml) and washed with saturated sodium bicarbonate (2×50 ml), 1M citric acid (2×50 ml) and brine (50 ml). The CH2Cl2 layer was dried over MgSO4 and the solvent removed under pressure to yield the title compound as a white solid (1.84 g, 92%).

reactant | N-Boc-4-cyanophenylalanine | 6.6 mmol, 1.92 g | C(=O)(OC(C)(C)C)N[C@@H](CC1=CC=C(C=C1)C#N)C(=O)O | C15H18N2O4
reactant | pentafluorophenol | 13.2 mmol, 2.43 g | FC1=C(C(=C(C(=C1O)F)F)F)F | C6HF5O
reactant | 4-methylmorpholine | 7.3 mmol, 0.74 g | CN1CCOCC1 | C5H11NO
reactant | methylamine | 8M | CN | CH5N
reactant | ethanol | 19.8 mmol, 15 ml | C(C)O | C2H6O
solvent | CH2Cl2 | 30 ml | C(Cl)Cl | CH2Cl2
product | N-Boc-4-cyanophenylalanine-N-methylamide | 1.84 g, 92% | CNC([C@@H](NC(=O)OC(C)(C)C)CC1=CC=C(C=C1)C#N)=O | C16H21N3O3
